US05232940
5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole (4.0 g) was added to triethyl orthoformate (19.0 ml) and p-toluene/-sulphonic acid (0.019 g) added. The mixture was heated under reflux for 21 hours, cooled, and the triethyl orthoformate evaporated in vacuo to give a brown oil as residue. This was purified by chromatography eluting with a mixture of dichloromethane and hexane (1:1). Evaporation of the eluates in vacuo gave 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethyleneamino-4-trifluoromethylthiopyrazole as a colourless solid, m.p. 70°-71.5° C.

reactant | 5-Amino-3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-4-trifluoromethylthiopyrazole | 4.0 g | NC1=C(C(=NN1C1=C(C=C(C=C1Cl)C(F)(F)F)Cl)C#N)SC(F)(F)F | C12H4Cl2F6N4S
reactant | triethyl orthoformate | 19.0 ml | C(OCC)(OCC)OCC | C7H16O3
solvent | p-toluene | 0.019 g | CC1=CC=CC=C1 | C7H8
product | 3-cyano-1-(2,6-dichloro-4-trifluoromethylphenyl)-5-ethoxymethyleneamino-4-trifluoromethylthiopyrazole | C(#N)C1=NN(C(=C1SC(F)(F)F)N=COCC)C1=C(C=C(C=C1Cl)C(F)(F)F)Cl | C15H8Cl2F6N4OS
